US04402960
Incremental portions of 3.6 g of sodium hydride (50% strength in white oil) is added to a solution of 21 g of 4,5-bis(4-methoxyphenyl)imidazole in 75 ml of absolute dimethylformamide. The mixture is stirred for another 30 minutes, and then 6.3 ml of 1-chloromethylmethyl ether in 35 ml of dimethylformamide is added dropwise. After 30 minutes the mixture is poured on ice water, the product is taken up in chloroform, the organic solution is washed with water, dried over sodium sulfate, and concentrated to dryness under vacuum. The residue is crystallized from benzene/hexane, thus obtaining 18.31 g of 4,5-bis(4-methoxyphenyl)-1-methoxymethylimidazole, mp 99°-101°.

reactant | sodium hydride | 3.6 g | [H-].[Na+]
reactant | 4,5-bis(4-methoxyphenyl)imidazole | 21 g | COC1=CC=C(C=C1)C=1N=CNC1C1=CC=C(C=C1)OC | C17H16N2O2
reactant | 1-chloromethylmethyl ether | 6.3 ml | ClCCOCCCl | C4H8Cl2O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4,5-bis(4-methoxyphenyl)-1-methoxymethylimidazole | 18.31 g | COC1=CC=C(C=C1)C=1N=CN(C1C1=CC=C(C=C1)OC)COC | C19H20N2O3
